US05585358
N-(2-n-Propylpentanoyl)-4-aminobutyramide.
To an ice-cooled solution of N-(2-propylpentanoyl)-4-aminobutyroyl chloride (prepared from N-(2-propylpentanoyl)-4-aminobutyric acid and SOC12, 5.9 g, 24.0 mmole) in dioxane (25 ml), was added dropwise conc. NH4OH (34 ml) over 1 hr. The reaction mixture was then stirred at RT for 20 hrs and evaporated to dryness under reduced pressure. The residue was taken up in an H2O (20 ml) and EtOAC (30 ml) mixture, the mixture stirred vigorously for 5 min. The organic phase was separated, evaporated to dryness under reduced pressure, and the residue crystallized from EtOAc to give 1.4 g (6.1 mmole, 26%) of a crystalline solid, mp 138° C.

reactant | N-(2-propylpentanoyl)-4-aminobutyroyl chloride | 24.0 mmole, 5.9 g | C(CC)C(C(=O)NCCCC(=O)Cl)CCC | C12H22ClNO2
reactant | NH4OH | 34 ml | [NH4+].[OH-]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | N-(2-n-Propylpentanoyl)-4-aminobutyramide | 6.1 mmole, 1.4 g, 26% | C(CC)C(C(=O)NC(CCCN)=O)CCC | C12H24N2O2
